US07226923B2
4-(5-Methyl-2H-pyrazol-3-ylamino)-2-(4-piperidin-1-yl-phenyl)-2H-phthalazin-1-one
4-(2-tert-Butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(4-piperidin-1-yl-phenyl)-2H-phthalazin-1-one (0.012 g, 0.026 mmol) was dissolved in formic acid (1 ml) and heated at 95° C. for 4 h. The resulting raw product was dissolved in dichloromethane, after evaporation of formic acid. Extraction with a saturated aqueous NaHCO3 solution, combining of the organic phases, evaporation of the solvent in vacuum and purification by chromatography over silica gel with dichloromethane:MeOH (20:1) yielded the title compound (0.006 g, 57%). 1H-NMR: (400 MHz, D6-DMSO) 11.81 (1H, s), 9.21 (1H, s), 8.48 (1H, d), 8.35 (1H, d), 7.87–7.96 (2H, m), 7.50 (2H, d), 7.01 (2H, d), 6.25 (1H, s), 3.21 (4H, m), 2.19 (3H, s), 1.64 (4H, m), 1.60 (2H, m); MS (ESI+)=401.29 (M+H)+.

reactant | 4-(2-tert-Butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(4-piperidin-1-yl-phenyl)-2H-phthalazin-1-one | 0.026 mmol, 0.012 g | C(C)(C)(C)N1N=C(C=C1NC1=NN(C(C2=CC=CC=C12)=O)C1=CC=C(C=C1)N1CCCCC1)C | C27H32N6O
solvent | formic acid | 1 ml | C(=O)O | CH2O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(5-Methyl-2H-pyrazol-3-ylamino)-2-(4-piperidin-1-yl-phenyl)-2H-phthalazin-1-one | 0.006 g, 57% | CC=1C=C(NN1)NC1=NN(C(C2=CC=CC=C12)=O)C1=CC=C(C=C1)N1CCCCC1 | C23H24N6O
